US07713452B2
A solution of 9,9-dipropyl-3-methoxyfluorene-2,7-dicarboxylic acid (43 g, 0.117 mol), thionyl chloride (30.0 mL, 48.9 g, 0.41 mol), p-dioxane (430 mL) and N-methylpyrrolidinone (2.0 mL), under argon, was stirred and heated under reflux for 3 h. Concentration of the reaction mixture by distillation of p-dioxane (50.0 mL) precipitated the diacid dichloride intermediate. The dark diacid dichloride solution, over a period of 20 min., was added to a cooled (0° C.) stirred solution of 2-amino-4-methylphenol (30.8 g, 0.25 mol), anhydrous piperidine (21.0 mL) and p-dioxane (200 mL) under argon. The resulting mixture was stirred at room temperature for 18 h then treated with water (50.0 mL) to dissolve the pyridinium chloride. The mixture was then added to 1.8 L of water, with stirring, to form the crude product as a granular solid, which was collected, washed with 50% methanol/water (500 mL), and dried to afford N,N′-bis(2-hydroxy-5-methylphenyl)-9,9-dipropyl-3-methoxyfluorene-2,7-dicarboxamide (77.2 g).

reactant | 9,9-dipropyl-3-methoxyfluorene-2,7-dicarboxylic acid | 0.117 mol, 43 g | C(CC)C1(C2=CC(=CC=C2C=2C=C(C(=CC12)C(=O)O)OC)C(=O)O)CCC | C22H24O5
reactant | thionyl chloride | 0.41 mol, 30.0 mL, 48.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-4-methylphenol | 0.25 mol, 30.8 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | piperidine | 21.0 mL | N1CCCCC1 | C5H11N
reactant | pyridinium chloride | [Cl-].[NH+]1=CC=CC=C1
reactant | p-dioxane | 200 mL | O1CCOCC1 | C4H8O2
reactant | p-dioxane | 430 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.8 L | O | H2O
solvent | water | 50.0 mL | O | H2O
solvent | N-methylpyrrolidinone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | N,N′-bis(2-hydroxy-5-methylphenyl)-9,9-dipropyl-3-methoxyfluorene-2,7-dicarboxamide | 77.2 g | OC1=C(C=C(C=C1)C)NC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1OC)C(=O)NC1=C(C=CC(=C1)C)O)(CCC)CCC | C36H38N2O5
